US04623662
A solution of 1.46 g of phenyl N-(3-chlorophenyl)carbamate in 15 ml of tetrahydrofuran was added to a solution of 1.92 g of N-benzyl-n-butylamine in 20 ml of tetrahydrofuran and the mixture stirred under reflux for 24 hours. The mixture was diluted with hexane and the precipitate collected by filtration. Recrystallization from pentane afforded 1-benzyl-1-(n-butyl)-3-(3-chlorophenyl)urea, m.p. 69°-70° C.

reactant | phenyl N-(3-chlorophenyl)carbamate | 1.46 g | ClC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C13H10ClNO2
reactant | N-benzyl-n-butylamine | 1.92 g | C(C1=CC=CC=C1)NCCCC | C11H17N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-benzyl-1-(n-butyl)-3-(3-chlorophenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=CC(=CC=C1)Cl)CCCC | C18H21ClN2O
